US07790747B2
To a solution of 1-(2-hydroxy-ethyl)-imidazolidin-2-one (1.00 g, 7.68 mmol) in acetone (70 ml) was added 15% aqueous sodium bicarbonate (21 ml) to give a white slurry, which was then cooled to 0° C. (JOC 2003, 68, 4999-5001). Sodium bromide (0.16 g, 1.54 mmol) and TEMPO (0.024 g, 0.15 mmol) were added and the resulting mixture was stirred for 10 minutes followed by the addition of trichloroisocyanuric acid (3.57 g, 15.4 mmol) in four equal portions added every five minutes. The pale yellow slurry was warmed to 25° C. and stirred for an additional 12 hours to yield a yellow solution. Iso-propanol (9 ml) was added and the mixture was stirred for 45 minutes to give a white slurry, which was filtered through a Celite® cake. The filtrate was concentrated in vacuo, quenched with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (50 ml). The aqueous phase was acidified with 4N HCl until pH ˜2 and then put on for continuous extraction with 5% methanol in methylene chloride (˜120 ml) for 16 hours. The organic extract was dried over sodium sulfate, filtered and concentrated in vacuo to yield (2-oxo-imidazolidin-1-yl)-acetic acid (0.530 g, 48%) as a white solid.

reactant | 1-(2-hydroxy-ethyl)-imidazolidin-2-one | 7.68 mmol, 1.00 g | OCCN1C(NCC1)=O | C5H10N2O2
reactant | sodium bicarbonate | 21 ml | C([O-])(O)=O.[Na+]
reactant | Sodium bromide | 1.54 mmol, 0.16 g | [Br-].[Na+]
reactant | trichloroisocyanuric acid | 15.4 mmol, 3.57 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | acetone | 70 ml | CC(=O)C | C3H6O
catalyst | TEMPO | 0.15 mmol, 0.024 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
solvent | Iso-propanol | 9 ml | C(C)(C)O | C3H8O
product | (2-oxo-imidazolidin-1-yl)-acetic acid | 0.530 g, 48% | O=C1N(CCN1)CC(=O)O | C5H8N2O3
